US05707991
B tert-Butyl (2RS,4SR,5SR)-4-(3,3-dimethylpiperidinocarbonyl-1-{2-[3-(3-(ethoxycarbonyl)phenyl]ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate can be prepared as described in Example 17B, but from 2.7 g of tert-butyl (2RS,4SR,5SR)-1-(2-aminoacetyl)-4-(4-(3,3-dimethylpiperidinocarbonyl)-5-phenylpyrrolidine-2-carboxylate and 1.17 g of ethyl 3-isocyanatobenzoate in 120 cm3 of tetrahydrofuran. After treatment, there are obtained 2.3 g of tert-butyl (2RS,4SR,5SR)-4-(3,3-dimethylpiperidinocarbonyl)-1-{2-[3-(3-(ethoxycarbonyl)phenyl]ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate in the form of a foam used as is in the subsequent syntheses.

reactant | 3,3-dimethylpiperidinocarbonyl-1-{2-[3-(3-(ethoxycarbonyl)phenyl]ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate | CC1(C(N(C(C1)C1=CC=CC=C1)C(CNC(=O)NC1=CC(=CC=C1)C(=O)OCC)=O)(C(=O)[O-])C(=O)N1CCCCC1)C
reactant | 4-(3,3-dimethylpiperidinocarbonyl)-5-phenylpyrrolidine-2-carboxylate | CC1(CN(CCC1)C(=O)C1CC(NC1C1=CC=CC=C1)C(=O)[O-])C
reactant | ethyl 3-isocyanatobenzoate | 1.17 g | N(=C=O)C=1C=C(C(=O)OCC)C=CC1 | C10H9NO3
solvent | tetrahydrofuran | 120 cm3 | O1CCCC1 | C4H8O
product | tert-butyl (2RS,4SR,5SR)-4-(3,3-dimethylpiperidinocarbonyl)-1-{2-[3-(3-(ethoxycarbonyl)phenyl]ureido]acetyl}-5-phenylpyrrolidine-2-carboxylate | 2.3 g | CC1(CN(CCC1)C(=O)C1CC(N(C1C1=CC=CC=C1)C(CNC(=O)NC1=CC(=CC=C1)C(=O)OCC)=O)C(=O)OC(C)(C)C)C | C35H46N4O7
